US07851565B2
1-Bromo-4-methyl-4-benzyloxybutane
To a solution of 1-methyl-4-bromo-1-butanol (9.0 g, 0.05384 mol) and benzyl 2,2,2-trichloroacetimidate (16.3 g, ) in a mixture of anhydrous cyclohexane (100 ml) and anhydrous dichloromethane (50 ml) cooled to 0° C., trifluoromethanesulfonic acid (1.0 ml) was added, and the mixture was stirred overnight at room temperature under argon. The mixture was filtered, washed with a saturated solution of NaHCO3 (250 ml) and deionized water (250 ml), and dried with anhydrous Na2SO4. The solvents were removed by distillation under reduced pressure. The crude product (9.2 g) was subjected to vacuum distillation, giving 7.2 g of colorless viscous liquid.

reactant | 1-methyl-4-bromo-1-butanol | 0.05384 mol, 9.0 g | CC(CCCBr)O | C5H11BrO
reactant | benzyl 2,2,2-trichloroacetimidate | 16.3 g | ClC(C(OCC1=CC=CC=C1)=N)(Cl)Cl | C9H8Cl3NO
reactant | cyclohexane | 100 ml | C1CCCCC1 | C6H12
reactant | trifluoromethanesulfonic acid | 1.0 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-Bromo-4-methyl-4-benzyloxybutane | 7.2 g | BrCCCC(OCC1=CC=CC=C1)C | C12H17BrO
